US07365225B2
2-hydroxy-5-[(4-{[(4-phenoxybenzyl)amino]carbonyl}benzyl)(3-phenylpropanoyl)amino]benzoic acid
The title compound was prepared following the procedure A using 4-phenoxybenzylamine, 4-(chloromethyl)benzoyl chloride, 3-phenylpropanoyl chloride and 6-amino-2,2-dimethyl-4H-1,3-benzodioxin-4-one. M+(ESI): 601.1

reactant | 4-phenoxybenzylamine | O(C1=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13NO
reactant | 4-(chloromethyl)benzoyl chloride | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | 3-phenylpropanoyl chloride | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | 6-amino-2,2-dimethyl-4H-1,3-benzodioxin-4-one | NC1=CC2=C(OC(OC2=O)(C)C)C=C1 | C10H11NO3
product | 2-hydroxy-5-[(4-{[(4-phenoxybenzyl)amino]carbonyl}benzyl)(3-phenylpropanoyl)amino]benzoic acid | OC1=C(C(=O)O)C=C(C=C1)N(C(CCC1=CC=CC=C1)=O)CC1=CC=C(C=C1)C(=O)NCC1=CC=C(C=C1)OC1=CC=CC=C1 | C37H32N2O6
